US07026352B1
(8E,12E,14E)-7-Acetoxy-3,21-bis(diethylcarbamoyloxy)-6-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (Compound B38)
(8E,12E,14E)-7-Acetoxy-6-hydroxy-6,10,12,16,20-pentamethyl-3,21-di(4-nitro-phenylcarboxy)-18,19-epoxytricosa-8,12,14-trien-11-olide (12.6 mg) was dissolved in tetrahydrofuran (0.5 mL), and diethylamine (20 μL) was added thereto, followed by stirring for 21.0 hours. The reaction solution was diluted with ethyl acetate (20 mL), and washed with purified water (4 mL) twice and brine (4 mL). The resulting organic layer was dried over anhydrous sodium sulfate, filtered and then concentrated. The resulting crude product was purified by thin layer chromatography (MERCK Silicagel 60 F254, 0.5 mm, developing solution; ethyl acetate) to obtain the title compound (10.7 mg, 14.5 μmol, 100.0%) as a colorless oil.

reactant | (8E,12E,14E)-7-Acetoxy-6-hydroxy-6,10,12,16,20-pentamethyl-3,21-di(4-nitro-phenylcarboxy)-18,19-epoxytricosa-8,12,14-trien-11-olide | 12.6 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C)O1)C)\C)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(C)O | C44H54N2O14
reactant | diethylamine | 20 μL | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-7-Acetoxy-3,21-bis(diethylcarbamoyloxy)-6-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 14.5 μmol, 10.7 mg, 100.0% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(N(CC)CC)=O)C)O1)C)\C)OC(N(CC)CC)=O)(C)O | C40H66N2O10
